US08563686B2
Step I: Synthesis of Boc-Ala-OH
K2CO3 (3.1 g, 22.46 mmol) and alanine (1 g, 11.23 mmol) were dissolved in minimum amount of water (8 mL) maintained at 0° C. A solution of ditertiarybutyl dicarbonate (2.57 g, 11.8 mmol) in THF (4 mL) was slowly added to the aqueous solution and stirred. Additional amounts of K2CO3 were added, if needed, to the mixture in order to maintain the pH of the solution between 10-12. After stirring at 0° C. for 30 minutes, the mixture was warmed to r.t. After eight hours THF was removed under reduced pressure and the aqueous portion was washed with diethyl ether, acidified (to pH 2) with citric acid and extracted with ethyl acetate (3×10 mL). The organic layer was dried over Na2SO4 and concentrated under vacuum to give a white solid (m.p. 77-79° C.) in quantitative yields (2.12 g).

reactant | K2CO3 | 22.46 mmol, 3.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | alanine | 11.23 mmol, 1 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | ditertiarybutyl dicarbonate | 11.8 mmol, 2.57 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 8 mL | O | H2O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | Boc-Ala-OH | N([C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C8H15NO4
